US05173489
9,9-Bis(4-pyridinylmethyl)-2-fluorofluorene dihydrochloride
The title compound was prepared following the method of Example 1 from 4.0 g (21.74 mmole) of 2-fluorofluorene, 8.92 g of 4-picolylchloride hydrochloride, 120 ml of toluene, 200 mg of benzyltriethylammonium chloride, and 20 ml of 50% sodium hydroxide by reaction at 22° for 17 hrs. The product was chromatographed (silica, CH2Cl2 /MeOH,10:1) to yield 2.9 g which was recrystallized (ethanol-acetone) and converted to the dihydrochloride, m.p. >300°.

reactant | 2-fluorofluorene | 21.74 mmole, 4.0 g | FC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9F
reactant | 4-picolylchloride hydrochloride | 8.92 g | Cl.N1=CC=C(C=C1)CCl
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 200 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 9,9-Bis(4-pyridinylmethyl)-2-fluorofluorene dihydrochloride | Cl.Cl.N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC(=CC12)F)CC1=CC=NC=C1 | InChI=1S/C25H19FN2.2ClH/c26-20-5-6-22-21-3-1-2-4-23(21)25(24(22)15-20,16-18-7-11-27-12-8-18)17-19-9-13-28-14-10-19;;/h1-15H,16-17H2;2*1H
